US08389940B2
1-Hexadecyl-3-[4-(5-phényl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium bis(trifluoromethylsulphonyl)imide, 2b
To a round-bottomed flask are added 1-hexadecyl-3-[4-(5-phenyl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium bromide (1.007 g, 1.7 mmol) which is then dissolved in ethanol (55 mL). Lithium bis(trifluoromethylsulphonyl)imide (0.731 g, 2.5 mmol) is then added. The solution is stirred at ambient temperature for 3 days. The solvent is removed under reduced pressure. The solid is washed 3 times with 30 mL distilled water and dried under reduced pressure at ambient temperature for 12 hours. The product is characterized by NMR spectroscopy.

reactant | 1-hexadecyl-3-[4-(5-phenyl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium bromide | 1.7 mmol, 1.007 g | [Br-].C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=1OC(=CN1)C1=CC=CC=C1
reactant | Lithium bis(trifluoromethylsulphonyl)imide | 2.5 mmol, 0.731 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+]
solvent | ethanol | 55 mL | C(C)O | C2H6O
product | 1-Hexadecyl-3-[4-(5-phényl-oxazol-2-yl)-benzyl]-3H-imidazol-1-ium bis(trifluoromethylsulphonyl)imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(CCCCCCCCCCCCCCC)[N+]1=CN(C=C1)CC1=CC=C(C=C1)C=1OC(=CN1)C1=CC=CC=C1 | InChI=1S/C35H48N3O.C2F6NO4S2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-18-25-37-26-27-38(30-37)29-31-21-23-33(24-22-31)35-36-28-34(39-35)32-19-16-15-17-20-32;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h15-17,19-24,26-28,30H,2-14,18,25,29H2,1H3;/q+1;-1
